* Modelo SPICE do Zener 1N4744A (15V)
.SUBCKT 1N4744A 1 2
*        Terminais: A  K
D1 1 2 DF
DZ 3 1 DR
VZ 2 3 13.7
.MODEL DF D ( IS=27.5p RS=0.620 N=1.10 CJO=78.3p VJ=1.00 M=0.330 TT=50.1n )
.MODEL DR D ( IS=5.49f RS=0.804 N=1.77 )
.ENDS 1N4744A
